US06831106B1
a) 1-(4-Bromo-2-thiophenyl)-1-propanol
10 g (52 mmol) of 4-bromothiophene-2-carbaldehyde are dissolved in 200 mL of ethyl ether and 20 mL of THF. 26.6 mL (78 mmol) of 3.0M ethylmagnesium bromide are added slowly. After 2 hours at room temperature, the reaction medium is poured into saturated ammonium chloride solution. After extraction, a yellow oil is obtained (m=11.5 g, Y=99%).

reactant | 4-bromothiophene-2-carbaldehyde | 52 mmol, 10 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | ethylmagnesium bromide | 78 mmol, 3.0M, 26.6 mL | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-Bromo-2-thiophenyl)-1-propanol | BrC=1C=C(SC1)C(CC)O | C7H9BrOS
